US07847101B2
5-Methyl-4-(6-morpholin-4-ylmethylbenzothiazol-2-yl)-2H-pyrazol-3-ylamine (574-38B):
The title compound (27 mg) was prepared starting from 40 mg of 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine and excess morpholine. MS (m/z, ES+): 330.1 (M+1, 30%), 243 (M-O(CH2)4N, 100%).

reactant | 4-(6-bromomethylbenzothiazol-2-yl)-5-methyl-2H-pyrazol-3-ylamine | 40 mg | BrCC1=CC2=C(N=C(S2)C2=C(NN=C2C)N)C=C1 | C12H11BrN4S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 5-Methyl-4-(6-morpholin-4-ylmethylbenzothiazol-2-yl)-2H-pyrazol-3-ylamine | 27 mg | CC=1C(=C(NN1)N)C=1SC2=C(N1)C=CC(=C2)CN2CCOCC2 | C16H19N5OS
